US07964645B2
a) ({[(4-Chloro-phenyl)-phenyl-methyl]-carbamoyl}-methyl)-carbamic acid tert-butyl ester
A suspension of 7.9 mmol C-(4-chloro-phenyl)-C-phenyl-methylamine hydrochloride (CA [5267-39-0]) in 100 ml acetonitrile was treated successively with 7.9 mmol N-tert.butyloxycarbonyl glycine, 39 mmol DIPEA and 8.7 mmol TBTU. After stirring for 1 hour at room temperature, the mixture was concentrated. Chromatography (SiO2; ethyl acetate/cyclohexane) yielded the title compound as a colorless solid. Yield=84%.

reactant | C-(4-chloro-phenyl)-C-phenyl-methylamine hydrochloride | 7.9 mmol | Cl.ClC1=CC=C(C=C1)C(C1=CC=CC=C1)N
reactant | N-tert.butyloxycarbonyl glycine | 7.9 mmol | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | DIPEA | 39 mmol | CCN(C(C)C)C(C)C | C8H19N
reactant | TBTU | 8.7 mmol | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | ({[(4-Chloro-phenyl)-phenyl-methyl]-carbamoyl}-methyl)-carbamic acid tert-butyl ester | Yield=84% | C(C)(C)(C)OC(NCC(NC(C1=CC=CC=C1)C1=CC=C(C=C1)Cl)=O)=O | C20H23ClN2O3
